US05155122
97% anhydrous hydrazine (4.8 g, 0.151 mole) is added dropwise to a stirred 0° C. suspension of sodium hydride (2.8 g of a 60% dispersion in mineral oil, 0.071 mol) in tetrahydrofuran (70 m) under nitrogen. After 90 minutes, a solution of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzonitrile (6.7 g, 0.021 mole) in tetrahydrofuran (15 ml) is added dropwise. After stirring two hours at 0° C., water 2.4 ml) is added dropwise. The mixture is poured into cold, saturated aqueous sodium bicarbonate 20 ml). The product is extracted with a 1:1 ethyl acetate/ether mixture (60 ml). The organic layer is washed with saturated aqueous NaCl and dried over MgSO4. Filtration and concentration provided a solid which was recrystallized from ethyl acetate/hexane to give 4.9 g (7.3 g theor., 67%) of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzene carboximidic acid hydrazide, mp 133° C.

reactant | hydrazine | 0.151 mole, 4.8 g | NN | H4N2
reactant | sodium hydride | [H-].[Na+]
reactant | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzonitrile | 0.021 mole, 6.7 g | CC(C)(C)C=1C=C(C#N)C=C(C1OCOCCOC)C(C)(C)C | C19H29NO3
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 2.4 ml | O | H2O
product | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzene carboximidic acid hydrazide | 4.9 g, 67% | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C(=N)NN | C19H33N3O3
